US06420367B1
Isatoic anhydride (4.9 g) and thiosemicarbazide (2.8 g) were dissolved in 30 ml of DMF and the resulting mixture was stirred 20 h at 60 to 80° C. The solvent was removed under reduced pressure and the residue was recrystallized from methanol and ethanol to give 2.94 g of 1-(2-aminobenzoyl)thiosemicarbazide.

reactant | Isatoic anhydride | 4.9 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | thiosemicarbazide | 2.8 g | NNC(=S)N | CH5N3S
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-(2-aminobenzoyl)thiosemicarbazide | 2.94 g | NC1=C(C(=O)NNC(=S)N)C=CC=C1 | C8H10N4OS
